US04776876
6-benzylthiopyridine-2,3-dicarboxylic acid
15.0 g (0.375 mol) sodium hydroxide are dissolved in 40 ml water and added to a stirred mixture of 7.3 g (0.023 mol) 6-benzylthiopyridine-2,3-dicarboxylic acid dimethyl ester in 40 ml ether. It is stirred for 4 hours at 40° C., the aqueous phase is acidified with concentrated hydrochloric acid, and the product is extracted with ethyl acetate, the solvent then being dried across magnesium sulfate and compressed. The product crystallizes from the residue.

reactant | sodium hydroxide | 0.375 mol, 15.0 g | [OH-].[Na+]
reactant | 6-benzylthiopyridine-2,3-dicarboxylic acid dimethyl ester | 0.023 mol, 7.3 g | COC(=S)C1=NC(=CC=C1C(=O)OC)CC1=CC=CC=C1 | C16H15NO3S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 6-benzylthiopyridine-2,3-dicarboxylic acid | C(C1=CC=CC=C1)C1=CC=C(C(=N1)C(=S)O)C(=O)O | C14H11NO3S
